US07947706B2
76 mg of solid yellow 3-[4-(3-p-tolylureido)phenyl]-1H-pyrrolo[2,3-c]pyridine-2-carboxamide are prepared as described in Example 1 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide and p-tolyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N | C14H12N4O
reactant | p-tolyl isocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | 3-[4-(3-p-tolylureido)phenyl]-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | C1(=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N)=O)C | C22H19N5O2
